US08227500B2
2-(3-Cyano-4-phenylpyrrole-1-yl)-5-hydroxyisonicotinic acid ethyl ester
To a solution of 5-benzyloxy-2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester in a mixed solvent of methanol (2 mL) and ethyl acetate (2 mL) was added palladium-carbon powder (0.020 g), and this mixture was stirred at room temperature under a hydrogen atmosphere for 30 minutes. The insoluble material was removed by suction through a Celite pad. This filtrate was concentrated under reduced pressure. This obtained solid was washed with diethyl ether, dried to give the title compound (0.040 g).

reactant | 5-benzyloxy-2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester | C(C)OC(C1=CC(=NC=C1OCC1=CC=CC=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)=O | C26H21N3O3
reactant | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 0.020 g | [C].[Pd]
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-Cyano-4-phenylpyrrole-1-yl)-5-hydroxyisonicotinic acid ethyl ester | 0.040 g | C(C)OC(C1=CC(=NC=C1O)N1C=C(C(=C1)C1=CC=CC=C1)C#N)=O | C19H15N3O3
